US05409928
(2) Preparation of methyl 4-(4-methoxyphenylmethyl)benzoate
To a mixture of sodium borohydride (2.27 g) and trifluoroacetic acid (50 ml), which was previously prepared under nitrogen atmosphere, was added a solution of 4-methoxycarbonyl-4'-methoxybenzophenone (2.70 g) and methylene chloride (30 ml) at room temperature. After reacting for 24 hours, the reaction mixture was poured into ice-water, and methylene chloride layer was separated. Water layer was further extracted with methylene chloride (50 ml×2).

reactant | sodium borohydride | 2.27 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-methoxycarbonyl-4'-methoxybenzophenone | 2.70 g | COC(=O)C1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C16H14O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(4-methoxyphenylmethyl)benzoate | COC1=CC=C(C=C1)CC1=CC=C(C(=O)OC)C=C1 | C16H16O3
